US07511136B2
2-[5-(tert-Butyl-dimethyl-silanyloxy)-1H-indazol-3-yl]-isoindole-1,3-dione
To a suspension of 32.26 g (0.115 mol) of 2-(5-hydroxy-1H-indazol-3-yl)-1H-isoindole-1,3(2H)-dione in 320 ml of dichloromethane, a solution of 43.54 g (0.288 mol) of TBDMS chloride in 150 ml of dichloromethane was added. The resulting mixture was treated dropwise with 35.5 ml (0.23 mol) of 1,8-Diazabicyclo[5.4.0]undec-7-ene (DBU) at room temperature, obtaining a clear solution. After 3 hours the reaction mixture was poured in 300 ml of a solution 0.1 N of hydrochloric acid. The aqueous layer was separated and extracted with 200 ml of dichloromethane. Organic extracts were dried over sodium sulfate and the solvent evaporated under vacuum. The raw product was purified by flash chromatography over silica gel eluiting with dichloromethane-cyclohexane-ethyl acetate (4:4:2). 36.03 g of product as white solid were obtained. Yield=79.2%. mp=225-228° C. HPLC r.t. 8.3 [M+H]+=394 [2M+H]+=787

reactant | 2-(5-hydroxy-1H-indazol-3-yl)-1H-isoindole-1,3(2H)-dione | 0.115 mol, 32.26 g | OC=1C=C2C(=NNC2=CC1)N1C(C2=CC=CC=C2C1=O)=O | C15H9N3O3
reactant | TBDMS chloride | 0.288 mol, 43.54 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 0.23 mol, 35.5 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 320 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-[5-(tert-Butyl-dimethyl-silanyloxy)-1H-indazol-3-yl]-isoindole-1,3-dione | 36.03 g, Yield=79.2% | C(C)(C)(C)[Si](OC=1C=C2C(=NNC2=CC1)N1C(C2=CC=CC=C2C1=O)=O)(C)C | C21H23N3O3Si
